US04452788
A mixture of 4-(1,3-diethyl-2,3,6,7-tetrahydro-2,6,-dioxo-1H-purin-8-yl)benzenesulfonic acid, (5.0 g, 0.014 moles) and N,N-dimethylformamide (150 ml) is cooled to 0° and treated with thionyl chloride (3.3 g, 0.027 moles). When the addition is complete, the reaction mixture is permitted to warm to ambient temperature and stirred vigorously until a thick slurry is formed. To this slurry is added 3-(dimethylamino)propylamine (14 g, 0.137 moles) in one portion, the mixture is stirred until a clear solution is obtained, and concentrated on a rotary evaporator. The residue is taken up in water, filtered, recrystallized from ethanol, and dried at 78° to yield 1.53 grams of 4-(1,3-diethyl-2,3,6,7-tetrahydro-2,6-dioxo-1H-purin-8-yl)-N-[3-(dimethylamino)-propyl]benzenesulfonamide monohydrochloride, mp 291°-292° C.(d).

reactant | 4-(1,3-diethyl-2,3,6,7-tetrahydro-2,6,-dioxo-1H-purin-8-yl)benzenesulfonic acid | 0.014 moles, 5.0 g | C(C)N1C(N(C=2N=C(NC2C1=O)C1=CC=C(C=C1)S(=O)(=O)O)CC)=O | C15H16N4O5S
reactant | thionyl chloride | 0.027 moles, 3.3 g | S(=O)(Cl)Cl | Cl2OS
reactant | 3-(dimethylamino)propylamine | 0.137 moles, 14 g | CN(CCCN)C | C5H14N2
solvent | N,N-dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
product | 4-(1,3-diethyl-2,3,6,7-tetrahydro-2,6-dioxo-1H-purin-8-yl)-N-[3-(dimethylamino)-propyl]benzenesulfonamide monohydrochloride | 1.53 grams | Cl.C(C)N1C(N(C=2N=C(NC2C1=O)C1=CC=C(C=C1)S(=O)(=O)NCCCN(C)C)CC)=O | InChI=1S/C20H28N6O4S.ClH/c1-5-25-18-16(19(27)26(6-2)20(25)28)22-17(23-18)14-8-10-15(11-9-14)31(29,30)21-12-7-13-24(3)4;/h8-11,21H,5-7,12-13H2,1-4H3,(H,22,23);1H
